US04497815
A mixture of 3.9 g of 5-fluorouracil, 6.27 g of 3, 4, 5-trimethoxyphenylisocyanate and 15 ml of pyridine was heated at 90° C. for 2 hr and, after evaporating pyridine, 100 ml of dichloromethane and 200 ml of hydrochloric acid water were added to it. The insoluble substance produced was combined with the substance dissolved in the dichloromethane. The combined substances were washed with water and then with ethanol, and 4.8 g of 1-(3, 4, 5-trimethoxyphenylcarbamoy)-5-fluorouracil (melting point: 168°-170° C.) was obtained (Compound No. 6). NMR: 3.76 (3H s OCH3) 3.84 (6H s OCH3) 6.64-7.0 (2H b C6H2).

reactant | 5-fluorouracil | 3.9 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | 3, 4, 5-trimethoxyphenylisocyanate | 6.27 g | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3, 4, 5-trimethoxyphenylcarbamoy)-5-fluorouracil | 4.8 g | COC=1C=C(C=C(C1OC)OC)NC(=O)N1C(=O)NC(=O)C(=C1)F | C14H14FN3O6
